US04652573
2,6-dimethyl-3,5-di(2-phthalimidocarbethoxy)-4-(3-nitrophenyl)-1,4-dihydropyridine
A solution of 137 mg (0.9 m mol) of 3-nitrobenzaldehyde, 0.5 g (1.82 m mol) of 2-phthalimidoethyl acetoacetate, and 0.16 ml (2.4 m mol) of 14.7M ammonium hydroxide in 40 ml of 2-propanol was refluxed for 15 hours under nitrogen. The solvent was removed in vacuo and the residue was subjected to flash chromatography (silica gel, 3:1 petroleum ether/ethyl acetate) to yield 50 mg of pale yellow product; m.p. 92°-94° C.; NMR: (CDCl3) δ2.2 (6M,s), 3.8 (4H,m), 4.2 (4H,m), 4.8 (1H,s), 6.1 (1H,s), 7.2 (12H,m).

reactant | 3-nitrobenzaldehyde | 137 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-phthalimidoethyl acetoacetate | 0.5 g | C(CC(=O)C)(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO5
reactant | ammonium hydroxide | 14.7M, 0.16 ml | [OH-].[NH4+]
solvent | 2-propanol | 40 ml | CC(C)O | C3H8O
product | 2,6-dimethyl-3,5-di(2-phthalimidocarbethoxy)-4-(3-nitrophenyl)-1,4-dihydropyridine | 50 mg | CC=1NC(=C(C(C1C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC(=CC=C2)[N+](=O)[O-])C(=O)OCCN2C(C=1C(C2=O)=CC=CC1)=O)C | C35H28N4O10
